US06809100B2
3-Methyl-2-(R)-{4-[5-(4-trifluoromethylphenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}butyric acid
Prepared according to the method for the preparation of 2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-3-methylbutyric acid, from 4-(R)-benzyl-3-(3-methyl-2-(R)-{4-[5-(4-trifluoromethylphenyl)pyrimidin-2-yl]piperazine -sulfonylmethyl}butyryl)oxazolidin-2-one(0.480 g), to give the title compound as a white solid (0.086 g, 24%).

reactant | 2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-3-methylbutyric acid | FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)O)C(C)C | C20H25FN4O4S
reactant | 4-(R)-benzyl-3-(3-methyl-2-(R)-{4-[5-(4-trifluoromethylphenyl)pyrimidin-2-yl]piperazine -sulfonylmethyl}butyryl)oxazolidin-2-one | 0.480 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)C(F)(F)F)=O | C31H34F3N5O5S
product | 3-Methyl-2-(R)-{4-[5-(4-trifluoromethylphenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}butyric acid | 0.086 g, 24% | CC([C@H](C(=O)O)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)C(F)(F)F)C | C21H25F3N4O4S
